US05942507
Synthesis of N-n-Hexyl-α-(2-sulfofuran-5-yl)nitrone
Following the procedure of Example 1 above and using 5-formylfuran-2-sulfonic acid, sodium salt hydrate and N-n-hexylhydroxylamine, the title compound was prepared in 76% yield as the sodium salt, m.p. 225.5° C. (dec.).

reactant | 5-formylfuran-2-sulfonic acid | C(=O)C1=CC=C(O1)S(=O)(=O)O | C5H4O5S
reactant | sodium | [Na] | Na
reactant | N-n-hexylhydroxylamine | C(CCCCC)NO | C6H15NO
product | N-n-Hexyl-α-(2-sulfofuran-5-yl)nitrone | 76% yield | C(CCCCC)[N+](=CC1=CC=C(O1)S(=O)(=O)O)[O-] | C11H17NO5S
